US08039480B2
Methyl (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoropentanoate
A solution of 0.75 g of 6-azaspiro[2.5]octane trifluoroacetate (3.30 mmol, 1 eq.) and 0.75 ml of DIPEA (1.3 eq.) in 6 ml of dichloroethane was added under argon to a solution of 0.65 g of methyl (S)-4,4-difluoro-2-isocyanatopentanoate (3.36 mmol) in 4 ml of dichloroethane. The reaction mixture was stirred at RT overnight. The mixture was diluted with 10 ml of dichloromethane and washed with saturated NaHCO3 solution. The organic phase was dried over MgSO4 and then concentrated under reduced pressure. The residue thus obtained was purified by preparative HPLC (gradient: acetonitrile/water and addition of 0.05% TFA. The product-containing fractions were combined and freeze-dried.

reactant | 6-azaspiro[2.5]octane trifluoroacetate | 3.30 mmol, 0.75 g, 1 eq. | FC(C(=O)O)(F)F.C1CC12CCNCC2
reactant | DIPEA | 0.75 ml, 1.3 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl (S)-4,4-difluoro-2-isocyanatopentanoate | 3.36 mmol, 0.65 g | FC(C[C@@H](C(=O)OC)N=C=O)(C)F | C7H9F2NO3
solvent | dichloroethane | 6 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 4 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methyl (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoropentanoate | C1CC12CCN(CC2)C(=O)N[C@H](C(=O)OC)CC(C)(F)F | C14H22F2N2O3
